US06756378B2
To a solution of ethyl 1-tert-butoxycarbonyl-3-fluoro-4piperidinylacetate (653 mg, 2.26 mmol) in CH2Cl2 (10 mL) was added TFA (5 mL) at 0° C. After being stirred at room temperature for 4 hr, the reaction mixture was concentrated. The residue was taken up with sat. NaHCO3 solution and extracted with THF—EtOAc (1:1, v/v). The extracts were dried over MgSO4 and concentrated to afford ethyl 3-fluoro-4-piperidinylacetate (420 mg, 98%) as a yellow oil. 1H-NMR (CDCl3) δ1.26 (t, J=7.4 Hz, 3H), 1.68-1.80 (m, 2H), 2.18 (m, 1H), 2.32 (dd, J=16.66, 6.8 Hz, 1H), 2.54 (dd, J=16.6, 7.5 Hz, 1H), 2.82 (m, 1H), 2.90, 3.00 (each d, J=14.4 Hz, total 1H), 3.31 (m, 1H), 3.51 (m, 1H), 4.15 (q, J=7.4 Hz, 2H), 4.82, 4.71 (each broad s, total 1H).

reactant | ethyl 1-tert-butoxycarbonyl-3-fluoro-4piperidinylacetate | 2.26 mmol, 653 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)CC(=O)OCC)F | C14H24FNO4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-fluoro-4-piperidinylacetate | 420 mg, 98% | FC1CNCCC1CC(=O)OCC | C9H16FNO2
